C1 (net10 net6) C=2.4E-12
T2 (net19 net2 net2 0) nfet L=7.27E-6 W=5.24E-6
R3 (net23 net15) R=8.4E6
T4 (net12 net12 net12 0) nfet L=7.13E-6 W=4.59E-6
T5 (net12 net18 net18 0) nfet L=2.66E-6 W=1.53E-6
T6 (vdd! net6 net6 0) nfet L=7.28E-6 W=2.09E-6
T7 (net13 net8 net8 0) nfet L=0.86E-6 W=5.71E-6
T8 (net14 net21 net21 0) nfet L=5.92E-6 W=4.81E-6
T9 (net12 net11 net11 0) nfet L=7.51E-6 W=7.37E-6
T10 (net9 0 0 0) pfet L=8.69E-6 W=2.88E-6
T11 (net13 net14 net14 0) pfet L=6.59E-6 W=4.45E-6
C12 (net5 net1) C=8.5E-6
R13 (net5 net15) R=9.7E6
R14 (net9 net21) R=7.4E6
T15 (net9 net14 net14 0) pfet L=4.59E-6 W=1.39E-6
R16 (net6 vdd!) R=9.4E3
T17 (net6 net10 net10 0) pfet L=6.91E-6 W=5.28E-6
T18 (net5 vdd! vdd! 0) pfet L=7.12E-6 W=0.14E-6
T19 (net2 vdd! vdd! 0) pfet L=8.00E-6 W=3.33E-6
R20 (net2 net15) R=5.8E6
C21 (net3 vdd!) C=4.4E-11
R22 (net8 net9) R=2.9E2
C23 (net10 net1) C=7.6E-12
T24 (net20 net11 net11 0) pfet L=7.35E-6 W=6.39E-6
R25 (net7 net19) R=9.3E4
T26 (net6 vdd! vdd! 0) nfet L=5.30E-6 W=2.03E-6
T27 (net13 net21 net21 0) nfet L=0.95E-6 W=6.62E-6
T28 (net10 net1 net1 0) nfet L=1.29E-6 W=9.08E-6
T29 (net20 net20 net20 0) pfet L=1.48E-6 W=1.33E-6
T30 (net9 net15 net15 0) pfet L=5.85E-6 W=0.36E-6
C31 (net2 net15) C=7.7E-8

