C1 (net1 0) C=1.2E-12
T2 (net1 net1 net1 0) nfet L=4.07E-6 W=9.20E-6
T3 (net1 net1 net1 0) nfet L=4.18E-6 W=8.65E-6
T4 (vdd! net1 net1 0) pfet L=8.27E-6 W=2.38E-6
T5 (net1 net1 net1 0) nfet L=8.58E-6 W=8.04E-6
T6 (0 net1 net1 0) pfet L=9.48E-6 W=2.19E-6
R7 (vdd! net1) R=8.8E3
T8 (net1 net1 net1 0) pfet L=9.34E-6 W=3.74E-6
T9 (net1 vdd! vdd! 0) pfet L=7.97E-6 W=8.47E-6
R10 (net1 vdd!) R=1.8E0
R11 (0 net1) R=9.4E5
T12 (net1 net1 net1 0) pfet L=9.14E-6 W=4.08E-6

