T1 (net22 net16 net16 0) pfet L=0.20E-6 W=3.58E-6
T2 (net16 net22 net22 0) nfet L=5.12E-6 W=5.46E-6
T3 (net21 net19 net19 0) nfet L=3.24E-6 W=0.84E-6
C4 (net15 net1) C=2.4E-6
R5 (net17 net4) R=7.1E5
T6 (net16 net9 net9 0) pfet L=6.81E-6 W=0.24E-6
C7 (vdd! net23) C=3.1E-8
T8 (net14 net3 net3 0) pfet L=2.98E-6 W=8.14E-6
T9 (0 net2 net2 0) nfet L=3.50E-6 W=2.33E-6
T10 (net22 vdd! vdd! 0) nfet L=7.02E-6 W=5.93E-6
R11 (net8 net14) R=2.3E3
T12 (net7 net20 net20 0) nfet L=1.29E-6 W=1.20E-6
C13 (0 net17) C=4.2E-13
T14 (net19 net16 net16 0) nfet L=8.50E-6 W=4.44E-6
C15 (net19 net14) C=1.4E-10
R16 (net19 net12) R=9.6E6
C17 (net18 net20) C=6.4E-13
T18 (net2 net11 net11 0) nfet L=3.44E-6 W=1.18E-6
R19 (net10 net19) R=1.4E0
T20 (net14 net19 net19 0) pfet L=1.90E-6 W=7.47E-6
T21 (net10 net19 net19 0) pfet L=0.20E-6 W=8.98E-6
R22 (0 net15) R=3.2E5
T23 (net14 net17 net17 0) pfet L=0.99E-6 W=7.11E-6
R24 (net12 net20) R=4.1E6
T25 (net13 net20 net20 0) nfet L=7.46E-6 W=4.60E-6
C26 (net20 net4) C=9.3E-6
T27 (net9 net11 net11 0) pfet L=5.70E-6 W=4.44E-6
T28 (net13 net23 net23 0) nfet L=3.63E-6 W=2.52E-6
C29 (net21 0) C=4.9E-11
T30 (net12 net12 net12 0) pfet L=5.17E-6 W=9.45E-6
T31 (net21 net18 net18 0) pfet L=1.89E-6 W=2.23E-6
R32 (net6 net14) R=5.6E5
T33 (net14 vdd! vdd! 0) nfet L=9.57E-6 W=1.94E-6
T34 (net5 net5 net5 0) pfet L=1.70E-6 W=0.92E-6
C35 (net9 net14) C=0.3E-9
R36 (net23 net2) R=1.0E6
T37 (net18 0 0 0) nfet L=8.36E-6 W=8.44E-6
C38 (net9 net16) C=8.1E-10
R39 (vdd! net5) R=8.5E1
R40 (net10 net2) R=2.4E0
T41 (0 net8 net8 0) pfet L=1.36E-6 W=5.42E-6
R42 (net1 net15) R=7.6E2
R43 (net5 net9) R=1.1E2
T44 (net11 net13 net13 0) nfet L=9.49E-6 W=9.59E-6
C45 (net21 net15) C=9.1E-10
C46 (net3 net7) C=8.9E-13
C47 (net8 net18) C=4.9E-6
R48 (net3 net2) R=3.9E0

