C1 (0 net29) C=1.5E-14
R2 (net11 net37) R=9.8E1
R3 (0 net15) R=2.3E5
T4 (0 net28 net28 0) pfet L=2.10E-6 W=4.17E-6
R5 (0 net1) R=7.9E0
T6 (net36 net29 net29 0) pfet L=4.80E-6 W=1.65E-6
C7 (vdd! net36) C=5.6E-9
T8 (net31 net31 net31 0) pfet L=2.80E-6 W=3.10E-6
T9 (net14 net23 net23 0) pfet L=8.61E-6 W=7.27E-6
T10 (net34 net14 net14 0) pfet L=9.64E-6 W=6.36E-6
T11 (net37 net37 net37 0) pfet L=1.61E-6 W=8.83E-6
R12 (net38 net32) R=8.4E5
T13 (net39 net9 net9 0) pfet L=3.72E-6 W=8.45E-6
C14 (vdd! net15) C=3.6E-11
C15 (net28 net10) C=8.7E-11
R16 (vdd! net23) R=5.2E3
T17 (vdd! net15 net15 0) pfet L=5.52E-6 W=9.24E-6
T18 (0 net35 net35 0) pfet L=3.33E-6 W=3.74E-6
C19 (net12 net31) C=6.2E-7
T20 (net3 net36 net36 0) pfet L=7.56E-6 W=0.63E-6
T21 (net17 net39 net39 0) nfet L=2.51E-6 W=3.47E-6
R22 (net11 net8) R=6.4E0
T23 (net19 net6 net6 0) nfet L=7.63E-6 W=5.17E-6
T24 (net16 net13 net13 0) nfet L=8.95E-6 W=5.82E-6
T25 (net31 net18 net18 0) pfet L=9.73E-6 W=0.34E-6
C26 (net14 net32) C=8.4E-13
T27 (net39 net5 net5 0) nfet L=6.08E-6 W=9.97E-6
C28 (net23 net38) C=7.8E-12
C29 (net37 net34) C=3.0E-9
T30 (net2 net5 net5 0) pfet L=9.32E-6 W=4.41E-6
C31 (net16 0) C=9.9E-7
C32 (net6 net35) C=4.6E-7
R33 (net28 net37) R=5.4E2
T34 (0 net6 net6 0) pfet L=0.86E-6 W=1.67E-6
R35 (0 net38) R=4.6E6
R36 (net10 net16) R=4.4E6
R37 (0 net1) R=5.3E2
C38 (net31 net28) C=2.3E-5
T39 (net38 net3 net3 0) nfet L=2.37E-6 W=1.02E-6
T40 (net4 net33 net33 0) pfet L=9.10E-6 W=0.26E-6
T41 (net18 net30 net30 0) pfet L=9.81E-6 W=7.00E-6
T42 (net13 net1 net1 0) pfet L=8.29E-6 W=0.59E-6
C43 (net26 net31) C=1.4E-9
C44 (net31 net33) C=8.9E-13
C45 (net8 net10) C=4.0E-11
R46 (net39 net2) R=0.9E0
R47 (net38 net8) R=2.2E5
T48 (net3 net33 net33 0) nfet L=2.58E-6 W=3.72E-6
R49 (net24 net26) R=9.7E1
R50 (net36 net5) R=3.1E6
T51 (net15 net28 net28 0) nfet L=6.50E-6 W=4.81E-6
T52 (net31 0 0 0) pfet L=5.58E-6 W=3.03E-6

