C1 (0 net1) C=8.9E-14
C2 (net6 net2) C=6.3E-9
R3 (net10 net3) R=9.5E4
C4 (net10 net11) C=2.3E-9
T5 (net7 net4 net4 0) nfet L=7.06E-6 W=9.42E-6
R6 (net8 net3) R=1.8E3
C7 (net11 net12) C=7.1E-5
T8 (0 net4 net4 0) pfet L=5.94E-6 W=9.62E-6
R9 (0 net2) R=9.8E3
T10 (0 net5 net5 0) nfet L=7.60E-6 W=9.19E-6
R11 (net4 net3) R=5.4E0
T12 (net11 net4 net4 0) nfet L=7.62E-6 W=1.02E-6
C13 (net9 net2) C=7.0E-7
C14 (net12 net2) C=1.5E-7
R15 (net12 net6) R=4.8E2
R16 (vdd! net10) R=5.5E3
T17 (net4 net4 net4 0) nfet L=8.57E-6 W=4.92E-6
C18 (net8 net10) C=6.7E-9
R19 (net1 net8) R=2.4E3
T20 (0 net4 net4 0) pfet L=5.18E-6 W=4.53E-6
T21 (net3 net3 net3 0) nfet L=9.08E-6 W=5.23E-6
T22 (net7 net6 net6 0) pfet L=3.49E-6 W=0.95E-6
R23 (net12 net9) R=5.8E1
C24 (net2 net5) C=3.8E-11
T25 (net3 net9 net9 0) nfet L=1.07E-6 W=3.52E-6
C26 (net2 net5) C=9.0E-10
T27 (0 net1 net1 0) pfet L=9.94E-6 W=7.39E-6
T28 (net10 net3 net3 0) pfet L=7.67E-6 W=2.81E-6
T29 (net1 net4 net4 0) pfet L=0.31E-6 W=4.29E-6
T30 (0 net8 net8 0) pfet L=4.57E-6 W=2.23E-6
T31 (net10 net2 net2 0) pfet L=1.11E-6 W=7.20E-6
T32 (net2 net2 net2 0) nfet L=6.97E-6 W=0.77E-6
T33 (net8 net8 net8 0) nfet L=9.10E-6 W=6.56E-6
C34 (net2 net1) C=1.9E-6
T35 (net12 net1 net1 0) nfet L=6.11E-6 W=7.06E-6
T36 (net9 net9 net9 0) pfet L=0.77E-6 W=3.95E-6
T37 (net10 net5 net5 0) nfet L=5.55E-6 W=1.20E-6
C38 (net3 net5) C=7.4E-10
T39 (net3 net5 net5 0) nfet L=6.32E-6 W=0.24E-6
C40 (0 net11) C=1.2E-11
T41 (net7 net6 net6 0) pfet L=4.33E-6 W=8.56E-6
R42 (net4 net3) R=3.4E0
T43 (net4 net2 net2 0) nfet L=9.67E-6 W=9.11E-6
T44 (net8 net4 net4 0) nfet L=5.23E-6 W=3.93E-6
C45 (net7 net2) C=1.8E-7
T46 (net8 net7 net7 0) nfet L=8.99E-6 W=5.63E-6
R47 (net10 net8) R=3.8E6
C48 (net7 net10) C=3.1E-7
T49 (net9 net12 net12 0) pfet L=8.91E-6 W=1.57E-6
R50 (net7 net2) R=7.2E5
R51 (net6 net7) R=7.8E1
R52 (net4 net11) R=6.9E5
C53 (net12 net9) C=5.1E-9
R54 (0 net12) R=1.3E3
R55 (net7 net3) R=3.9E0

