C1 (net8 net4) C=1.6E-6
T2 (net8 net19 net19 0) pfet L=3.64E-6 W=0.36E-6
C3 (net16 0) C=9.6E-12
C4 (net4 net9) C=2.7E-14
T5 (net10 0 0 0) pfet L=7.03E-6 W=1.23E-6
T6 (net18 net12 net12 0) nfet L=0.66E-6 W=5.98E-6
T7 (net12 net13 net13 0) nfet L=2.32E-6 W=2.57E-6
C8 (net8 net10) C=2.0E-6
C9 (vdd! net12) C=0.2E-7
T10 (net17 net5 net5 0) nfet L=1.00E-6 W=9.14E-6
R11 (net14 net3) R=7.6E0
T12 (net1 net5 net5 0) nfet L=2.17E-6 W=2.23E-6
C13 (net22 vdd!) C=2.5E-10
R14 (net18 net7) R=7.5E4
R15 (net19 net2) R=5.1E1
T16 (net18 net17 net17 0) pfet L=5.41E-6 W=7.17E-6
R17 (net17 net3) R=3.9E5
T18 (net14 net12 net12 0) pfet L=2.52E-6 W=2.12E-6
T19 (net18 net23 net23 0) nfet L=6.78E-6 W=7.99E-6
R20 (net9 net21) R=6.0E2
C21 (net18 net7) C=9.8E-13
C22 (net9 net11) C=6.8E-8
T23 (net9 0 0 0) pfet L=1.38E-6 W=6.58E-6
T24 (net7 net1 net1 0) nfet L=2.51E-6 W=3.29E-6
T25 (net14 0 0 0) nfet L=4.86E-6 W=6.82E-6
T26 (net7 net15 net15 0) nfet L=5.87E-6 W=0.45E-6
T27 (net4 net9 net9 0) nfet L=3.78E-6 W=4.48E-6
C28 (net19 net16) C=4.3E-6
T29 (net6 net16 net16 0) nfet L=6.52E-6 W=0.17E-6
C30 (net16 net5) C=6.1E-10
C31 (vdd! net7) C=2.7E-13
T32 (0 net7 net7 0) nfet L=8.30E-6 W=8.19E-6
T33 (net19 net7 net7 0) pfet L=7.30E-6 W=6.40E-6
R34 (net3 net19) R=9.4E6
C35 (net4 net8) C=3.8E-10
T36 (net7 net10 net10 0) pfet L=8.82E-6 W=3.93E-6

