C1 (vdd! net9) C=0.2E-6
T2 (net4 net6 net6 0) nfet L=9.29E-6 W=8.98E-6
R3 (net8 net13) R=7.5E4
T4 (net12 net3 net3 0) nfet L=4.79E-6 W=6.25E-6
T5 (net14 net15 net15 0) pfet L=8.76E-6 W=4.11E-6
C6 (net2 net14) C=9.2E-10
T7 (net10 net16 net16 0) nfet L=6.18E-6 W=1.45E-6
T8 (net16 net8 net8 0) nfet L=1.75E-6 W=6.83E-6
T9 (net1 net8 net8 0) nfet L=2.06E-6 W=0.49E-6
C10 (net13 net4) C=2.0E-14
R11 (net14 net18) R=6.7E6
T12 (net6 net15 net15 0) pfet L=8.93E-6 W=5.59E-6
C13 (net12 net16) C=0.8E-10
T14 (net17 net1 net1 0) pfet L=4.57E-6 W=8.03E-6
T15 (net7 net3 net3 0) nfet L=6.54E-6 W=3.17E-6
T16 (net9 net17 net17 0) nfet L=0.74E-6 W=0.33E-6
T17 (net4 net7 net7 0) nfet L=0.76E-6 W=7.95E-6
T18 (net8 net8 net8 0) nfet L=8.12E-6 W=8.05E-6
T19 (net7 net18 net18 0) nfet L=2.22E-6 W=8.54E-6
T20 (net8 net18 net18 0) nfet L=2.35E-6 W=4.10E-6
T21 (net15 net6 net6 0) pfet L=4.50E-6 W=4.77E-6
T22 (net11 vdd! vdd! 0) pfet L=5.85E-6 W=0.85E-6
R23 (net16 net6) R=6.4E0
T24 (net17 vdd! vdd! 0) nfet L=8.11E-6 W=6.60E-6
T25 (net12 vdd! vdd! 0) pfet L=1.63E-6 W=2.36E-6
C26 (net3 net8) C=0.4E-14

