T1 (vdd! net2 net2 0) nfet L=7.84E-6 W=1.81E-6
T2 (net3 net11 net11 0) nfet L=7.06E-6 W=7.20E-6
C3 (net10 net5) C=1.8E-14
R4 (net9 net3) R=2.0E6
R5 (net5 net11) R=2.9E2
T6 (0 net11 net11 0) pfet L=4.28E-6 W=1.81E-6
C7 (net1 0) C=4.8E-11
C8 (net11 net5) C=4.9E-14
T9 (net8 vdd! vdd! 0) nfet L=1.06E-6 W=2.99E-6
T10 (net11 0 0 0) pfet L=3.18E-6 W=3.34E-6
C11 (net9 net3) C=5.8E-9
T12 (net4 net11 net11 0) nfet L=5.88E-6 W=2.34E-6
R13 (0 net6) R=2.6E4
T14 (net6 net12 net12 0) pfet L=2.85E-6 W=4.75E-6
T15 (vdd! net6 net6 0) pfet L=3.27E-6 W=5.78E-6
C16 (net5 net9) C=9.5E-8
T17 (net4 net10 net10 0) nfet L=4.94E-6 W=7.32E-6
T18 (vdd! net11 net11 0) nfet L=4.35E-6 W=4.99E-6
C19 (net12 net11) C=3.8E-9
T20 (net1 net7 net7 0) nfet L=8.89E-6 W=1.23E-6
R21 (net1 net11) R=4.8E2
R22 (vdd! net1) R=0.9E2
R23 (net9 net5) R=5.9E5
R24 (net9 net12) R=4.9E6
T25 (net7 net8 net8 0) pfet L=4.24E-6 W=4.57E-6
R26 (net6 net12) R=7.1E5
R27 (0 net3) R=5.6E1
T28 (net8 net10 net10 0) nfet L=3.76E-6 W=6.29E-6
T29 (net5 net9 net9 0) nfet L=8.57E-6 W=8.94E-6
R30 (net10 0) R=2.4E2
R31 (net6 vdd!) R=3.7E0
T32 (net10 net10 net10 0) nfet L=5.97E-6 W=2.43E-6

