C1 (net3 net6) C=9.5E-11
R2 (net10 net22) R=5.7E3
T3 (net21 0 0 0) nfet L=2.78E-6 W=5.00E-6
R4 (net6 0) R=2.0E0
T5 (net14 net6 net6 0) nfet L=3.10E-6 W=1.29E-6
C6 (0 net15) C=2.9E-11
C7 (net4 net17) C=7.5E-11
T8 (net2 net2 net2 0) nfet L=0.56E-6 W=6.55E-6
C9 (net20 net4) C=1.9E-11
T10 (net14 vdd! vdd! 0) nfet L=3.08E-6 W=4.81E-6
R11 (net4 net6) R=1.4E2
T12 (net19 net26 net26 0) nfet L=8.02E-6 W=6.79E-6
C13 (net17 net11) C=3.6E-14
C14 (net14 net22) C=5.8E-7
T15 (net8 net8 net8 0) nfet L=1.57E-6 W=1.57E-6
T16 (net11 net16 net16 0) pfet L=5.04E-6 W=7.40E-6
R17 (net25 net7) R=1.4E2
R18 (net25 net15) R=2.2E1
C19 (net14 net23) C=10.0E-12
T20 (net9 net18 net18 0) pfet L=4.51E-6 W=3.89E-6
R21 (net15 net21) R=4.0E6
T22 (net11 0 0 0) pfet L=6.77E-6 W=9.75E-6
T23 (net18 net7 net7 0) pfet L=9.65E-6 W=7.52E-6
R24 (net25 net17) R=4.2E4
T25 (net1 net2 net2 0) pfet L=9.97E-6 W=2.87E-6
T26 (0 net24 net24 0) pfet L=9.49E-6 W=9.20E-6
C27 (net25 vdd!) C=7.6E-9
T28 (0 net24 net24 0) pfet L=9.01E-6 W=9.00E-6
T29 (net12 net3 net3 0) pfet L=3.14E-6 W=6.31E-6
T30 (net26 net9 net9 0) pfet L=9.96E-6 W=0.36E-6
C31 (net7 net19) C=0.5E-10
T32 (net10 net18 net18 0) nfet L=2.69E-6 W=7.10E-6

