R1 (net1 net2) R=4.5E3
R2 (net2 net1) R=5.2E3
T3 (net2 net2 net2 0) nfet L=3.10E-6 W=4.72E-6
T4 (vdd! net2 net2 0) nfet L=5.41E-6 W=0.73E-6
T5 (net1 net2 net2 0) pfet L=5.22E-6 W=2.96E-6
R6 (net2 net1) R=2.3E4
R7 (net2 net1) R=4.8E2
C8 (vdd! net1) C=2.8E-9
R9 (net2 0) R=8.1E2
T10 (net1 0 0 0) nfet L=1.94E-6 W=3.64E-6
C11 (net1 net2) C=2.0E-6
C12 (net1 net2) C=3.9E-9
T13 (net2 net2 net2 0) pfet L=0.22E-6 W=1.41E-6
R14 (net1 net2) R=4.9E1
T15 (net2 net1 net1 0) nfet L=1.17E-6 W=7.97E-6
C16 (net1 net2) C=3.7E-8
C17 (net1 net2) C=2.8E-12
T18 (net1 net2 net2 0) nfet L=8.06E-6 W=7.71E-6
R19 (net1 net2) R=5.9E4
R20 (net2 net1) R=3.0E1
R21 (net1 net2) R=2.5E4
T22 (net2 net2 net2 0) nfet L=0.58E-6 W=6.25E-6
T23 (net1 net1 net1 0) pfet L=3.29E-6 W=5.08E-6

