C1 (net28 net16) C=7.1E-6
C2 (net15 net5) C=1.4E-5
T3 (net27 vdd! vdd! 0) pfet L=5.36E-6 W=7.37E-6
R4 (net28 net22) R=2.3E4
T5 (net29 net17 net17 0) pfet L=5.78E-6 W=2.35E-6
T6 (net30 net9 net9 0) pfet L=9.51E-6 W=5.29E-6
C7 (net18 net5) C=4.8E-6
T8 (0 net18 net18 0) pfet L=4.87E-6 W=0.79E-6
C9 (net21 net20) C=3.8E-9
T10 (net3 net27 net27 0) pfet L=7.11E-6 W=5.96E-6
T11 (net6 vdd! vdd! 0) nfet L=5.74E-6 W=5.73E-6
T12 (net28 net3 net3 0) nfet L=3.24E-6 W=2.75E-6
R13 (net22 net8) R=8.6E0
R14 (vdd! net11) R=5.4E5
C15 (net2 net17) C=4.9E-6
C16 (net20 net25) C=3.9E-8
T17 (net23 net4 net4 0) nfet L=8.41E-6 W=4.17E-6
T18 (net29 net30 net30 0) nfet L=9.78E-6 W=9.05E-6
T19 (net6 net3 net3 0) pfet L=1.49E-6 W=9.53E-6
T20 (0 net24 net24 0) pfet L=4.27E-6 W=4.15E-6
C21 (net14 net8) C=2.4E-9
T22 (net10 net3 net3 0) pfet L=0.42E-6 W=6.46E-6
T23 (net21 net1 net1 0) pfet L=9.27E-6 W=7.41E-6
C24 (net13 vdd!) C=8.1E-9
C25 (0 net12) C=7.2E-9
C26 (net18 net27) C=7.8E-13
C27 (net1 vdd!) C=3.5E-13
C28 (net22 net4) C=6.6E-13
T29 (0 net29 net29 0) nfet L=9.61E-6 W=6.35E-6
R30 (net26 net17) R=6.6E3
C31 (net27 net4) C=9.6E-5
R32 (net24 net3) R=7.4E2
C33 (net25 net6) C=1.1E-11
R34 (net10 net21) R=1.7E2
R35 (net22 net5) R=8.6E4
T36 (net26 net4 net4 0) nfet L=6.02E-6 W=4.96E-6
C37 (net15 net26) C=9.1E-6
T38 (net7 net24 net24 0) pfet L=7.72E-6 W=7.98E-6
C39 (net25 net21) C=8.3E-10
T40 (net21 vdd! vdd! 0) pfet L=2.12E-6 W=2.97E-6
T41 (net25 net29 net29 0) nfet L=2.09E-6 W=9.67E-6
T42 (net14 net2 net2 0) pfet L=3.34E-6 W=8.38E-6
T43 (net19 net27 net27 0) nfet L=6.16E-6 W=3.65E-6
T44 (net10 net27 net27 0) pfet L=3.75E-6 W=0.15E-6
R45 (vdd! net23) R=8.6E0
C46 (vdd! net8) C=8.8E-6

