T1 (vdd! net19 net19 0) pfet L=1.04E-6 W=9.31E-6
T2 (net6 net19 net19 0) nfet L=8.46E-6 W=2.74E-6
T3 (net19 net1 net1 0) pfet L=2.02E-6 W=7.51E-6
T4 (net1 net21 net21 0) nfet L=3.34E-6 W=9.67E-6
T5 (net8 net4 net4 0) pfet L=3.67E-6 W=6.63E-6
T6 (net25 net14 net14 0) pfet L=7.96E-6 W=2.06E-6
T7 (net19 net4 net4 0) nfet L=4.28E-6 W=1.09E-6
T8 (net1 net3 net3 0) pfet L=2.64E-6 W=8.14E-6
T9 (net19 net14 net14 0) nfet L=0.74E-6 W=2.78E-6
T10 (net11 net20 net20 0) pfet L=2.25E-6 W=5.25E-6
T11 (net24 vdd! vdd! 0) pfet L=6.29E-6 W=1.64E-6
T12 (net9 net11 net11 0) pfet L=6.09E-6 W=4.78E-6
C13 (net22 net6) C=0.3E-8
C14 (net4 net14) C=7.2E-11
T15 (0 net19 net19 0) nfet L=8.54E-6 W=7.39E-6
R16 (net2 net23) R=5.4E5
R17 (net11 net9) R=3.1E4
T18 (0 net19 net19 0) nfet L=9.25E-6 W=7.72E-6
R19 (net9 net3) R=6.1E1
T20 (net16 net14 net14 0) pfet L=5.92E-6 W=4.63E-6
T21 (net2 net1 net1 0) pfet L=7.28E-6 W=0.36E-6
C22 (net9 net13) C=6.7E-12
C23 (net8 net13) C=9.6E-14
R24 (net8 net1) R=5.9E2
T25 (net12 net7 net7 0) nfet L=5.44E-6 W=0.50E-6
R26 (net12 net17) R=7.5E4
T27 (net3 net25 net25 0) nfet L=2.17E-6 W=4.85E-6
T28 (net10 0 0 0) pfet L=2.62E-6 W=1.78E-6
T29 (net11 net13 net13 0) pfet L=0.14E-6 W=0.24E-6
R30 (net20 net11) R=7.3E0
C31 (net2 net22) C=7.5E-10
T32 (net6 vdd! vdd! 0) nfet L=4.54E-6 W=5.66E-6
T33 (net23 net3 net3 0) nfet L=0.81E-6 W=5.88E-6
R34 (net19 net23) R=5.7E6
T35 (net17 net14 net14 0) nfet L=8.76E-6 W=8.15E-6
C36 (net2 vdd!) C=0.1E-10
T37 (net15 net2 net2 0) pfet L=0.51E-6 W=1.82E-6
T38 (net17 0 0 0) nfet L=3.13E-6 W=3.08E-6
C39 (net22 net23) C=5.1E-13
T40 (net15 net5 net5 0) pfet L=2.08E-6 W=9.80E-6
R41 (net12 net17) R=5.1E4
R42 (net10 net18) R=7.1E5
R43 (net24 0) R=4.4E0
C44 (net2 net22) C=9.9E-12
T45 (0 net11 net11 0) nfet L=9.28E-6 W=9.48E-6
T46 (net23 net15 net15 0) nfet L=0.59E-6 W=8.40E-6
T47 (vdd! vdd! vdd! 0) nfet L=2.98E-6 W=2.65E-6
R48 (net20 net15) R=7.1E5
T49 (net19 net3 net3 0) nfet L=5.20E-6 W=3.13E-6
R50 (net2 net9) R=2.4E3
T51 (net13 net7 net7 0) nfet L=3.95E-6 W=4.29E-6
T52 (net15 net24 net24 0) pfet L=3.63E-6 W=8.01E-6
T53 (net6 net2 net2 0) nfet L=1.12E-6 W=5.50E-6
C54 (0 net8) C=1.1E-5
T55 (net12 net12 net12 0) nfet L=0.59E-6 W=8.94E-6
T56 (net9 net16 net16 0) pfet L=7.15E-6 W=6.10E-6
T57 (net7 net12 net12 0) pfet L=9.83E-6 W=5.77E-6
C58 (net24 net3) C=0.7E-6
R59 (0 net21) R=8.1E2

