C1 (net2 net1) C=8.6E-7
R2 (net2 net1) R=5.3E1
T3 (net2 net2 net2 0) pfet L=8.51E-6 W=0.28E-6
R4 (net2 0) R=4.5E2
T5 (net1 net1 net1 0) nfet L=6.59E-6 W=8.35E-6
C6 (net1 net2) C=0.7E-7
T7 (net1 net2 net2 0) pfet L=4.89E-6 W=6.27E-6
T8 (net2 vdd! vdd! 0) pfet L=1.89E-6 W=7.64E-6
T9 (net1 net2 net2 0) nfet L=4.41E-6 W=7.70E-6
T10 (net2 net1 net1 0) nfet L=9.41E-6 W=9.29E-6
C11 (net1 net2) C=6.5E-9
C12 (vdd! net2) C=1.8E-14
T13 (net2 net1 net1 0) pfet L=0.79E-6 W=2.36E-6
R14 (net1 net2) R=6.6E1
T15 (net2 net1 net1 0) pfet L=6.10E-6 W=3.68E-6
R16 (net2 net1) R=2.3E2
T17 (net2 vdd! vdd! 0) pfet L=1.24E-6 W=0.62E-6
T18 (net1 net1 net1 0) nfet L=0.56E-6 W=6.83E-6
T19 (net1 net1 net1 0) nfet L=0.96E-6 W=9.99E-6
T20 (net2 net2 net2 0) pfet L=4.12E-6 W=1.98E-6
T21 (net1 net1 net1 0) pfet L=4.50E-6 W=4.00E-6
T22 (net1 net2 net2 0) nfet L=5.47E-6 W=6.95E-6
T23 (net1 net1 net1 0) nfet L=3.83E-6 W=1.15E-6
C24 (net2 net1) C=2.2E-8

