T1 (net11 net14 net14 0) pfet L=7.88E-6 W=3.46E-6
T2 (net12 net2 net2 0) nfet L=1.36E-6 W=4.24E-6
T3 (net7 net6 net6 0) nfet L=1.99E-6 W=7.94E-6
C4 (net5 net15) C=8.0E-9
T5 (net1 net3 net3 0) pfet L=0.23E-6 W=2.52E-6
R6 (0 net17) R=8.1E6
R7 (net7 vdd!) R=1.3E2
T8 (net19 net2 net2 0) nfet L=4.13E-6 W=8.81E-6
T9 (net18 0 0 0) pfet L=3.63E-6 W=1.53E-6
T10 (net11 net5 net5 0) nfet L=7.20E-6 W=0.68E-6
C11 (net13 net10) C=9.1E-14
T12 (net1 net2 net2 0) nfet L=3.03E-6 W=4.10E-6
T13 (net20 net22 net22 0) nfet L=0.45E-6 W=8.72E-6
T14 (vdd! net8 net8 0) nfet L=2.92E-6 W=2.65E-6
T15 (net3 net19 net19 0) nfet L=1.91E-6 W=8.52E-6
T16 (net22 net16 net16 0) pfet L=6.49E-6 W=7.16E-6
T17 (net22 net16 net16 0) pfet L=4.99E-6 W=0.11E-6
T18 (net19 net7 net7 0) nfet L=8.70E-6 W=2.05E-6
T19 (vdd! net16 net16 0) nfet L=1.81E-6 W=9.68E-6
T20 (net17 net20 net20 0) nfet L=0.59E-6 W=3.76E-6
T21 (net18 net6 net6 0) pfet L=8.39E-6 W=5.21E-6
R22 (net19 net18) R=2.5E2
C23 (net20 vdd!) C=7.1E-8
R24 (net18 net13) R=5.3E2
T25 (net16 net12 net12 0) pfet L=8.70E-6 W=9.42E-6
C26 (net20 net21) C=8.5E-9
C27 (net17 net13) C=4.9E-7
T28 (net23 net12 net12 0) nfet L=1.01E-6 W=3.86E-6
R29 (net11 net18) R=7.7E6
T30 (net4 net8 net8 0) pfet L=0.48E-6 W=4.01E-6

