T1 (net3 net5 net5 0) pfet L=8.16E-6 W=0.44E-6
C2 (net8 net1) C=9.5E-13
C3 (net2 net5) C=8.9E-9
C4 (net6 net1) C=0.2E-6
C5 (net8 net6) C=9.9E-11
R6 (net5 net2) R=4.4E6
C7 (net8 net7) C=5.7E-7
T8 (net7 net5 net5 0) pfet L=9.00E-6 W=8.41E-6
R9 (vdd! net3) R=3.9E5
C10 (net7 net6) C=2.0E-8
C11 (net5 net8) C=3.5E-12
T12 (net8 0 0 0) nfet L=5.03E-6 W=5.54E-6
T13 (net4 net1 net1 0) pfet L=0.27E-6 W=4.15E-6
T14 (net2 net1 net1 0) nfet L=6.51E-6 W=3.50E-6
R15 (net6 net7) R=9.4E5
R16 (net5 net3) R=0.7E4
T17 (net4 net2 net2 0) nfet L=7.14E-6 W=0.12E-6
T18 (net2 vdd! vdd! 0) pfet L=9.60E-6 W=5.54E-6
T19 (net8 net5 net5 0) nfet L=1.50E-6 W=6.72E-6
T20 (net4 net3 net3 0) nfet L=9.11E-6 W=5.64E-6
C21 (net8 net7) C=9.0E-14
T22 (net1 net1 net1 0) pfet L=8.43E-6 W=6.80E-6
C23 (net3 net2) C=2.0E-6
R24 (net8 net7) R=2.9E6
T25 (net5 net8 net8 0) pfet L=3.65E-6 W=5.14E-6
T26 (vdd! net6 net6 0) nfet L=2.00E-6 W=4.35E-6
T27 (net2 net1 net1 0) pfet L=2.85E-6 W=8.54E-6
T28 (net7 net1 net1 0) nfet L=9.62E-6 W=0.77E-6

