T1 (net1 net4 net4 0) pfet L=9.49E-6 W=9.50E-6
T2 (net1 net12 net12 0) pfet L=8.65E-6 W=6.23E-6
R3 (0 net2) R=8.3E2
T4 (net3 net3 net3 0) nfet L=0.46E-6 W=3.79E-6
C5 (net2 net7) C=8.3E-6
T6 (net13 net8 net8 0) pfet L=0.29E-6 W=6.37E-6
T7 (net11 net1 net1 0) pfet L=9.03E-6 W=0.34E-6
T8 (net1 net13 net13 0) nfet L=9.49E-6 W=0.60E-6
R9 (net11 net7) R=9.0E4
R10 (0 net11) R=0.8E4
T11 (net13 net10 net10 0) nfet L=8.51E-6 W=1.05E-6
T12 (net11 net2 net2 0) nfet L=6.98E-6 W=6.03E-6
C13 (0 net9) C=6.5E-6
T14 (net13 net12 net12 0) nfet L=9.88E-6 W=7.23E-6
C15 (net2 net12) C=2.9E-11
T16 (net2 net3 net3 0) pfet L=7.78E-6 W=0.52E-6
T17 (0 net8 net8 0) nfet L=8.57E-6 W=6.55E-6
R18 (net4 net13) R=4.0E2
T19 (net2 net8 net8 0) pfet L=3.07E-6 W=5.02E-6
C20 (net1 net9) C=0.4E-5
T21 (net13 net2 net2 0) nfet L=7.12E-6 W=8.20E-6
R22 (net4 vdd!) R=10.0E5
R23 (net7 net3) R=7.6E2
C24 (net9 net7) C=0.9E-12
R25 (net8 net2) R=9.3E0
C26 (net7 net9) C=10.0E-11
C27 (net13 net7) C=4.0E-12
T28 (net8 net7 net7 0) nfet L=2.85E-6 W=7.94E-6
T29 (net10 net8 net8 0) pfet L=0.18E-6 W=2.78E-6
R30 (net2 net12) R=7.5E4
T31 (net6 net9 net9 0) nfet L=3.06E-6 W=5.21E-6
C32 (net4 net6) C=2.1E-12
C33 (net11 net7) C=7.7E-7
C34 (net12 net13) C=7.4E-8
T35 (net4 net7 net7 0) pfet L=3.13E-6 W=9.84E-6
R36 (net5 net4) R=7.5E4
T37 (net2 net4 net4 0) pfet L=4.81E-6 W=7.12E-6
T38 (net2 net6 net6 0) pfet L=8.35E-6 W=3.52E-6
C39 (net6 net3) C=2.7E-13
C40 (net2 net9) C=0.6E-9
R41 (net3 net5) R=0.1E1
T42 (net2 net5 net5 0) pfet L=7.99E-6 W=5.20E-6
T43 (net7 net10 net10 0) pfet L=9.22E-6 W=6.16E-6
R44 (net4 net12) R=0.7E2
C45 (net9 net7) C=10.0E-11
T46 (net11 net2 net2 0) pfet L=2.85E-6 W=5.12E-6
C47 (net11 net6) C=7.3E-13
T48 (net5 net12 net12 0) nfet L=8.13E-6 W=6.36E-6
R49 (net7 net1) R=9.8E6
R50 (net9 net8) R=4.3E3
T51 (net8 net9 net9 0) nfet L=2.53E-6 W=0.49E-6
T52 (net8 0 0 0) nfet L=9.73E-6 W=9.66E-6
T53 (net4 net12 net12 0) nfet L=3.66E-6 W=8.83E-6

