T1 (net2 net2 net2 0) nfet L=5.70E-6 W=2.06E-6
C2 (vdd! net8) C=4.9E-6
C3 (net25 net21) C=0.1E-7
C4 (net15 net11) C=5.2E-13
T5 (0 net5 net5 0) nfet L=8.57E-6 W=9.62E-6
R6 (net12 net5) R=1.8E4
R7 (net3 net11) R=6.3E3
R8 (net4 net23) R=5.8E6
T9 (net1 net13 net13 0) nfet L=8.34E-6 W=1.23E-6
T10 (net13 net4 net4 0) pfet L=0.95E-6 W=9.90E-6
T11 (net23 net24 net24 0) pfet L=7.82E-6 W=3.68E-6
T12 (net4 net5 net5 0) pfet L=4.78E-6 W=1.21E-6
T13 (net21 net14 net14 0) nfet L=3.25E-6 W=0.64E-6
T14 (net24 net26 net26 0) nfet L=7.49E-6 W=1.12E-6
C15 (net21 vdd!) C=6.5E-8
R16 (net20 net11) R=0.5E0
T17 (0 net12 net12 0) pfet L=8.09E-6 W=9.09E-6
T18 (net10 net14 net14 0) nfet L=8.99E-6 W=1.28E-6
T19 (net24 0 0 0) nfet L=9.41E-6 W=8.03E-6
R20 (net11 net2) R=9.6E4
R21 (net9 net16) R=2.9E5
T22 (net8 net23 net23 0) nfet L=5.25E-6 W=5.87E-6
T23 (net10 net17 net17 0) nfet L=6.95E-6 W=5.83E-6
R24 (net12 net13) R=0.9E0
T25 (net11 net24 net24 0) pfet L=8.74E-6 W=6.08E-6
C26 (net23 0) C=2.5E-8
C27 (net16 net23) C=4.0E-7
T28 (net13 net11 net11 0) pfet L=3.99E-6 W=1.90E-6
T29 (net18 net12 net12 0) nfet L=9.70E-6 W=7.17E-6
T30 (net25 net23 net23 0) pfet L=4.10E-6 W=7.70E-6
T31 (net22 net22 net22 0) nfet L=7.05E-6 W=1.78E-6
R32 (net13 net14) R=6.4E2
T33 (net24 net24 net24 0) nfet L=9.76E-6 W=6.16E-6
T34 (net9 net5 net5 0) pfet L=1.92E-6 W=4.38E-6
C35 (net20 net15) C=3.5E-14
R36 (net9 net19) R=1.8E5
T37 (net16 net22 net22 0) pfet L=4.51E-6 W=2.13E-6
T38 (net8 net3 net3 0) pfet L=5.80E-6 W=9.89E-6
C39 (net3 net24) C=6.6E-9
T40 (net22 net13 net13 0) pfet L=9.41E-6 W=4.65E-6
C41 (net21 net13) C=6.2E-11
T42 (net17 net14 net14 0) nfet L=9.68E-6 W=5.38E-6
R43 (0 net11) R=2.3E6
R44 (net3 net9) R=6.5E3

